US05395815
Preparation Example 13: Preparation of N-(4-hydroxybenzylidene)-n-octadecylamine (Example 49)
Under a nitrogen atmosphere, p-hydroxybenzaldehyde (99.6 g), n-octadecylamine (200.0 g) and p-toluenesulfonic acid (13.4 g) were added to toluene (1200 ml) and the mixture was refluxed with heating and simultaneously the azeotropic water was removed. After about 2 hours, the reaction mixture was cooled to room temperature to precipitate a crystal, which was filtered off under reduced pressure. This crystal was recrystallized from isopropanol to obtain the desired product (207.9 g). Yield 75%; m.p. 101° C.

reactant | p-hydroxybenzaldehyde | 99.6 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | n-octadecylamine | 200.0 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | p-toluenesulfonic acid | 13.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-hydroxybenzylidene)-n-octadecylamine | 207.9 g, Yield 75% | OC1=CC=C(C=NCCCCCCCCCCCCCCCCCC)C=C1 | C25H43NO
